$ default tnom setting
* This netlist tests XDM HSPICE translation of
* the TNOM option for the circuit. If TNOM is
* set in a .OPTION statement, the Xyce translation
* should be ".OPTIONS DEVICE TNOM=<VAL>"

.option tnom=50

m1 2 1 0 b n1 L=0.09u W=10.0u NF=5 rgeomod=1 geomod=0
vgs 1 0 1.2
vds 2 0 1.2
Vb b 0 0.0

.dc vds 0.0 1.2 0.1

.print dc v(2) i(vds)

.MODEL  N1  NMOS  LEVEL = 54

+VERSION = 4.6.1        BINUNIT = 1            PARAMCHK= 1            MOBMOD  = 0
+CAPMOD  = 1            IGCMOD  = 1            IGBMOD  = 1            GEOMOD  = 1
+DIOMOD  = 1            RDSMOD  = 0            RBODYMOD= 0            RGATEMOD= 1
+PERMOD  = 1            ACNQSMOD= 0            TRNQSMOD= 0            TEMPMOD = 0
+MTRLMOD = 1        CVCHARGEMOD = 0

+EOT = 1.8E-009     VDDEOT = 1.5           ADOS    = 1.1          BDOS    = 1.0
+TOXE    = 1.8E-009     TOXP    = 10E-010      TOXM    = 1.8E-009
+DTOX    = 8E-10        EPSROX  = 3.9          WINT    = 5E-009       LINT    = 1E-009
+LL      = 0            WL      = 0            LLN     = 1            WLN     = 1
+LW      = 0            WW      = 0            LWN     = 1            WWN     = 1
+LWL     = 0            WWL     = 0            XPART   = 1            TOXREF  = 1.4E-009

+PHIG   = 4.05      EPSRGATE = 11.7

+SAREF   = 5E-6         SBREF   = 5E-6         WLOD    = 2E-6         KU0     = -4E-6
+KVSAT   = 0.2          KVTH0   = -2E-8        TKU0    = 0.0          LLODKU0 = 1.1
+WLODKU0 = 1.1          LLODVTH = 1.0          WLODVTH = 1.0          LKU0    = 1E-6
+WKU0    = 1E-6     PKU0    = 0.0          LKVTH0  = 1.1E-6       WKVTH0  = 1.1E-6
+PKVTH0  = 0.0      STK2    = 0.0          LODK2   = 1.0          STETA0  = 0.0
+LODETA0 = 1.0
+LAMBDA  = 4E-10
+VSAT    = 1.1E+005
+VTL     = 2.0E5    XN  = 6.0          LC      = 5E-9
+RNOIA   = 0.577    RNOIB   = 0.37
+LINTNOI = 1E-009
+TVOFF   = 0.0      TVFBSDOFF = 0.0
+VTH0    = 0.25
+K1      = 0.35         K2      = 0.05         K3      = 0
+K3B     = 0            W0      = 2.5E-006     DVT0    = 1.8          DVT1    = 0.52
+DVT2    = -0.032       DVT0W   = 0            DVT1W   = 0            DVT2W   = 0
+DSUB    = 2            MINV    = 0.05         VOFFL   = 0            DVTP0   = 1E-007
+MINVCV  = 2        VOFFCVL = 0
+DVTP1   = 0.05         LPE0    = 5.75E-008    LPEB    = 2.3E-010     XJ      = 2E-008
+NGATE   = 5E+020       NDEP    = 2.8E+018     NSD     = 1E+020       PHIN    = 0
+CDSC    = 0.0002       CDSCB   = 0            CDSCD   = 0            CIT     = 0
+VOFF    = -0.15        NFACTOR = 1.2          ETA0    = 0.05         ETAB    = 0
+UC      = -3E-011
+VFB     = -0.55        U0      = 0.032        UA      = 5.0E-011     UB      = 3.5E-018
+A0      = 2            AGS     = 1E-020
+A1      = 0            A2      = 1            B0      = -1E-020      B1      = 0
+KETA    = 0.04         DWG     = 0            DWB     = 0            PCLM    = 0.08
+PDIBLC1 = 0.028        PDIBLC2 = 0.022        PDIBLCB = -0.005       DROUT   = 0.45
+PVAG    = 1E-020       DELTA   = 0.01         PSCBE1  = 8.14E+008    PSCBE2  = 5E-008
+FPROUT  = 0.2          PDITS   = 0.2          PDITSD  = 0.23         PDITSL  = 2.3E+006
+RSH     = 0            RDSW    = 50           RSW     = 50           RDW     = 50
+RDSWMIN = 0            RDWMIN  = 0            RSWMIN  = 0            PRWG    = 0
+PRWB    = 6.8E-011     WR      = 1            ALPHA0  = 0.074        ALPHA1  = 0.005
+BETA0   = 30           AGIDL   = 0.0001       BGIDL   = 2.1E+009     CGIDL   = 0.0001
+EGIDL   = 0.8          AGISL   = 0.0002       BGISL   = 2.1E+009     CGISL   = 0.0002
+EGISL   = 0.8

+AIGBACC = 0.012        BIGBACC = 0.0028       CIGBACC = 0.002
+NIGBACC = 1            AIGBINV = 0.014        BIGBINV = 0.004        CIGBINV = 0.004
+EIGBINV = 1.1          NIGBINV = 3            AIGC    = 0.012        BIGC    = 0.0028
+CIGC    = 0.002        AIGS    = 0.012        BIGS    = 0.0028       CIGS    = 0.002
+NIGC    = 1            POXEDGE = 1            PIGCD   = 1            NTOX    = 1
+AIGD    = 0.01     BIGD    = 0.003        CIGD    = 0.0015

+XRCRG1  = 12           XRCRG2  = 5
+CGSO    = 6.238E-010   CGDO    = 6.238E-010   CGBO    = 2.56E-011    CGDL    = 2.495E-10
+CGSL    = 2.495E-10    CKAPPAS = 0.03         CKAPPAD = 0.03         ACDE    = 1
+MOIN    = 15           NOFF    = 0.9          VOFFCV  = -0.02

+KT1     = -0.37        KT1L    = 0.0           KT2     = -0.042       UTE     = -1.5
+UA1     = 1E-009       UB1     = -3.5E-019     UC1     = 0            PRT     = 0
+AT      = 53000

+FNOIMOD = 1            TNOIMOD = 0

+JSS     = 0.0001       JSWS    = 1E-011       JSWGS   = 1E-010       NJS     = 1
+IJTHSFWD= 0.01         IJTHSREV= 0.001        BVS     = 10           XJBVS   = 1
+JSD     = 0.0001       JSWD    = 1E-011       JSWGD   = 1E-010       NJD     = 1
+IJTHDFWD= 0.01         IJTHDREV= 0.001        BVD     = 10           XJBVD   = 1
+PBS     = 1            CJS     = 0.0005       MJS     = 0.5          PBSWS   = 1
+CJSWS   = 5E-010       MJSWS   = 0.33         PBSWGS  = 1            CJSWGS  = 3E-010
+MJSWGS  = 0.33         PBD     = 1            CJD     = 0.0005       MJD     = 0.5
+PBSWD   = 1            CJSWD   = 5E-010       MJSWD   = 0.33         PBSWGD  = 1
+CJSWGD  = 5E-010       MJSWGD  = 0.33         TPB     = 0.005        TCJ     = 0.001
+TPBSW   = 0.005        TCJSW   = 0.001        TPBSWG  = 0.005        TCJSWG  = 0.001
+XTIS    = 3            XTID    = 3

+DMCG    = 0E-006       DMCI    = 0E-006       DMDG    = 0E-006       DMCGT   = 0E-007
+DWJ     = 0.0E-008     XGW     = 0E-007       XGL     = 0E-008

+RSHG    = 0.4          GBMIN   = 1E-010       RBPB    = 5            RBPD    = 15
+RBPS    = 15           RBDB    = 15           RBSB    = 15           NGCON   = 1

+JTSS    = 1E-4         JTSD    = 1E-4         JTSSWS  = 1E-10        JTSSWD = 1E-10
+JTSSWGS = 1E-7         JTSSWGD = 1E-7
+NJTS    = 20.0         NJTSSW  = 15           NJTSSWG = 6            VTSS   = 10
+VTSD    = 10           VTSSWS  = 10           VTSSWD  = 10
+NJTSD   = 15.0         NJTSSWD  = 20          NJTSSWGD = 6
+TNJTS   = 0.1          TNJTSD  = 0.05
+VTSSWGS=2 VTSSWGD=2
+XTSS = 0.02 XTSD = 0.02 XTSSWS = 0.02 XTSSWD = 0.02 XTSSWGS = 0.02 XTSSWGD = 0.02

.END
